US05580893
N-(2-Nitroxyethyl)phenoxyacetamide (Exemplified compound No. 9)
1.5 ml of triethylamine and 0.7 ml of diethyl cyanophosphate were added to a suspension of 0.65 g of phenoxyacetic acid and 0.6 g of 2-nitroxyethylamine nitrate in 20 ml of tetrahydrofuran with ice-cooling. The mixture was stirred at room temperature for 2 hours and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography through silica gel (eluent; hexane: ethyl acetate=1:1) and then recrystallized from diisopropyl ether to give 0.27 g of the title compound as colorless needles.

reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphate | 0.7 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | phenoxyacetic acid | 0.65 g | O(C1=CC=CC=C1)CC(=O)O | C8H8O3
reactant | 2-nitroxyethylamine nitrate | 0.6 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-(2-Nitroxyethyl)phenoxyacetamide | 0.27 g | O([N+](=O)[O-])CCNC(COC1=CC=CC=C1)=O | C10H12N2O5
